US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboxylic acid [2-(2-cyano-phenyl)-ethyl]-amide
A 20 mL microwave reaction vessel equipped with a stir bar was charged with 2-isopropyl-5-methyl-cyclohexanecarboxylic acid [2-(2-bromo-phenyl)-ethyl]-amide (1.54 g, 4.2 mmol), CuCN (0.60 g, 6.4 mmol) and NMP (10 mL). The reaction vessel was subjected to microwave at 180° C. for 40 minutes. The reaction mixture was transferred to a round bottom flask and concentrated. The residue to purified by flash chromatography on silica gel (10% ethyl acetate/hexane for elution) to give a colorless solid (1.25 g, 81%).

reactant | 2-isopropyl-5-methyl-cyclohexanecarboxylic acid [2-(2-bromo-phenyl)-ethyl]-amide | 4.2 mmol, 1.54 g | BrC1=C(C=CC=C1)CCNC(=O)C1C(CCC(C1)C)C(C)C | C19H28BrNO
reactant | CuCN | 6.4 mmol, 0.60 g | C(#N)[Cu]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid [2-(2-cyano-phenyl)-ethyl]-amide | 1.25 g, 81% | C(#N)C1=C(C=CC=C1)CCNC(=O)C1C(CCC(C1)C)C(C)C | C20H28N2O
